US04677098
4-Hydroxy-5-oxo-2-pyrrolidinepropanoic acid t-butyl ester (1.87 g) and trifluoracetic acid (1.2 g) in 10 ml of N,N-dimethylformamide was heated at 100° C. until disappearance of starting material by thin layer chromatography. After concentration under reduced pressure, the resulting solid is washed with acetone and filtered to give 4-hydroxy-5-oxo-2-pyrrolidinepropanoic acid with mp 129°-132° C. NMR (DMSOD6) and 12.14 (s, 1H), 7.96 (d, J=5 Hz, 1H), 5.37 (m, 1H), 4.00 (m, 1H), 2.60-1.09 (m, 6H). IR (cm-1) 3420, 3080, 2030, 2920, 1698, 1494, 1387, 1284.

reactant | 4-Hydroxy-5-oxo-2-pyrrolidinepropanoic acid t-butyl ester | 1.87 g | C(C)(C)(C)OC(CCC1NC(C(C1)O)=O)=O | C11H19NO4
reactant | trifluoracetic acid | 1.2 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-hydroxy-5-oxo-2-pyrrolidinepropanoic acid | OC1CC(NC1=O)CCC(=O)O | C7H11NO4
